*** Title: "E:\Новая папка\LR_2_SH\simulation\tb_tgl_trig\netlistLR_2_SH_NID.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Tue Feb 10 17:53:48 2026                     
*******************************************************************

simulator lang=local


parameters 

V1 CLK gnd vsource type=pulse val0=3.5 val1=0 delay=1.5e-007 period=6e-008 rise=1e-009 fall=1e-009 width=3e-008 
V2 D gnd vsource type=pulse val0=3.5 val1=0 delay=1.2e-007 period=8e-008 rise=1e-009 fall=1e-009 width=4e-008 
V3 RSTB gnd vsource type=pulse val0=3.5 val1=0 delay=3e-008 period=5e-007 rise=1e-009 fall=1e-009 width=2e-008 
C0 q1 gnd capacitor c=1e-013 
V0 vdd! gnd vsource type=dc dc=3.5 
V4 SETB gnd vsource type=pulse val0=3.5 val1=0 delay=9e-008 period=5e-007 rise=1e-009 fall=1e-009 width=2e-008 
C1 Q gnd capacitor c=1e-013 
C2 q2 gnd capacitor c=1e-013 
I0 CLK D RSTB SETB Q q1 q2 d_trig_tgl 

subckt d_trig_tgl CLK D RSTB SETB Q q1 q2 
M4 q2 clka n9_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M5 q2 clkb n9_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M12 n9_1 q1 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M13 n9_1 SETB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M14 n9_1 q1 n25_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M15 n25_1 SETB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M16 Q q2 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M17 Q RSTB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M18 Q q2 n29_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M19 n29_1 RSTB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M20 n31_4 SETB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M21 n31_4 Q vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M22 n31_4 Q n33_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M23 n33_1 SETB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M0 clkb CLK vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M1 clkb CLK gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 clka clkb vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 clka clkb gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M25 n11_4 n9_1 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M26 n11_4 RSTB n37_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M27 n37_1 n9_1 gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M24 n11_4 RSTB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 q1 clkb D gnd nmos_mod1.1 w=2e-006 l=6e-007 
M3 q1 clka D vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M8 n31_4 clkb q2 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M9 n31_4 clka q2 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M7 n11_4 clkb q1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 n11_4 clka q1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends
